US04391627
N-[(4,6-Dimethylpyrimidin-2-yl)aminocarbonyl]benzofuransulfonamide, mixture of 2- and 3-positional isomers
A suspension of 2.59 g of 2-amino-4,6-dimethylpyrimidine in 50 ml of nitromethane was cooled to -10° C. and treated with 2.0 ml of chlorosulfonyl isocyanate. After stirring for 0.5 hour at -10° C. a solution of 2.0 ml of benzofuran in 10 ml of nitromethane was added dropwise followed by 2.8 g of aluminum chloride. The mixture was stirred and heated at reflux until TLC monitoring indicated the disappearance of starting material. The mixture was cooled, poured into water, extracted with methylene chloride, the extract washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo to a dark oil. Trituration with dichloromethane followed by washing with acetonitrile gave the desired product as a mixture of 2- and 3-positional isomers, m.p. 206°-218° C. dec. The product exhibited IR bands at 3300 (NH), 1710 (C=O, 1340 (SO2) and 1140 (SO2) cm-1 and NMR absorptions at δ 2.4 (s, pyrimidine methyls) and 6.3-8.0 (m, aromatic and pyrimidine H's).

reactant | 2-amino-4,6-dimethylpyrimidine | 2.59 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | chlorosulfonyl isocyanate | 2.0 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | benzofuran | 2.0 ml | O1C=CC2=C1C=CC=C2 | C8H6O
reactant | aluminum chloride | 2.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitromethane | 50 ml | [N+](=O)([O-])C | CH3NO2
solvent | nitromethane | 10 ml | [N+](=O)([O-])C | CH3NO2
solvent | water | O | H2O
product | N-[(4,6-Dimethylpyrimidin-2-yl)aminocarbonyl]benzofuransulfonamide | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2 | C15H14N4O4S
